US04952722
An aqueous solution of 10% sodium hydroxide (50-70 ml) was added dropwise over a period of 5 minutes to a suspension of indane-5-carboxaldehyde (18.50 g; 127 mmole) in acetone (50 ml) and water (50 ml). The mixture was stirred at a temperature of 65° C. for a period of 11/2 hours and then extracted with dichloromethane (200 ml). The organic extract was washed several times with water, dried over anhydrous sodium sulphate, and the solvent was removed under reduced pressure using a rotary evaporator to give 1-(5-indanyl)but-1-en-3-one (19.25 g; 81%) as a viscous oil.

reactant | sodium hydroxide | 50-70 ml | [OH-].[Na+]
reactant | indane-5-carboxaldehyde | 127 mmole, 18.50 g | C1CCC2=CC(=CC=C12)C=O | C10H10O
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
product | 1-(5-indanyl)but-1-en-3-one | 19.25 g, 81% | C1CCC2=CC(=CC=C12)C=CC(C)=O | C13H14O
